US04177292
370 mg of platinum dioxide were added to a solution of 3.7 g of cis N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-benzocycloheptene-7-amine in 200 ml of ethanol and one liter of hydrogen was bubbled therethrough for 30 minutes with stirring. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure to obtain 3.6 g of cis N,N-dimethyl-5-[4-aminophenoxy]-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-amine in the form of an orange oil. The said oil was dissolved in 20 ml of ethyl acetate and a solution of ethyl acetate saturated with gaseous hydrogen chloride was added thereto to adjust the pH to 1. The mixture stood for one hour at room temperature and was then vacuum filtered to obtain 4.1 g of the dihydrochloride of the cis compound in the form of colorless crystals melting at ≈260° C.

reactant | cis N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-benzocycloheptene-7-amine | 3.7 g | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C | C19H22N2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | hydrogen | one liter | [H][H] | H2
catalyst | platinum dioxide | 370 mg | [Pt](=O)=O
product | cis N,N-dimethyl-5-[4-aminophenoxy]-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-amine | 3.6 g | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)N)C | C19H24N2O
